US04113863
A mixture of 0.5 g. 9β-hydroxy-15-oxo-13-prostenoic acid ethyl ester, 4 ml. acetyl bromide, 10 ml. benzene and 0.2 g. methanesulfonic acid is heated under reflux for 4 hours, with the exclusion of moisture and poured, after cooling, into 80 ml. ice water. The resulting mixture is extracted twice with 40 ml. amounts of benzene. The organic phase is washed with water until neutral and dried over Na2SO4. Solvent is removed and, after chromatographic purification (silica gel/diisopropyl ether:petroleum ether:triethylamine = 100:100:1), 9β,15-diacetoxy-12,14-prostadienoic acid ethyl ester is obtained. UV: 243 - 244 nm (ε = 19800)

reactant | 9β-hydroxy-15-oxo-13-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CC[C@@H]1C=CC(CCCCC)=O)O)=O | C22H38O4
reactant | acetyl bromide | C(C)(=O)Br | C2H3BrO
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 9β,15-diacetoxy-12,14-prostadienoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CC=C(CCCCC)OC(C)=O)OC(C)=O)=O | C26H42O6
